US04808620
To a solution of 40 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine in 300 ml of dimethylformamide are added 34,2 g of potassium carbonate and 31 g of 2-acetoxyethyl bromide, and the mixture is stirred at 60° C. for 11 hours. The resulting mixture is poured into ice-cold water and the precipitate is extracted with ethyl acetate and then the extract is washed with water, dried and concentrated. The resulting residue is recrystallized from isopropyl alcohol to give 43 g of 1-(2-acetoxyethyl)-3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine as white crystals, melting at 115°-116° C.

reactant | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 40 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC2=NC=CC=C21 | C20H25N3O
reactant | potassium carbonate | 34,2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-acetoxyethyl bromide | 31 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-(2-acetoxyethyl)-3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 43 g | C(C)(=O)OCCN1N=C(C=2C1=NC=CC2)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C24H31N3O3
